US07816475B2
A 1 L flask provided with a stirrer was charged with 128.6 g (1.0 mol) of m-chlorophenol (available from Tokyo Chemical Industry Co., Ltd.), 52.0 g (1.3 mols) of sodium hydroxide (available from Wako Pure Chemical Industries Ltd.), 259.1 g (1.2 mols) of 1,4-dibromobutane (available from Tokyo Chemical Industry Co., Ltd.) and 300 g of water. The content was maintained at 80° C. for 4 hours. Then the reaction liquid was cooled to room temperature, and deposited NaBr, produced by side reaction, was filtered off. The organic phase was separated and subjected to distillation under reduced pressure to give 216.9 g of the target m-(4-bromobutoxy)chlorobenzene (yield: 79%, purity: 96%).

reactant | m-chlorophenol | 1.0 mol, 128.6 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | sodium hydroxide | 1.3 mols, 52.0 g | [OH-].[Na+]
reactant | 1,4-dibromobutane | 1.2 mols, 259.1 g | BrCCCCBr | C4H8Br2
reactant | NaBr | [Na+].[Br-]
solvent | water | 300 g | O | H2O
product | m-(4-bromobutoxy)chlorobenzene | yield: 79% | BrCCCCOC=1C=C(C=CC1)Cl | C10H12BrClO
